Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ presents from an outside hospital with an intraparenchymal 
hemorrhage and rib fractures status post fall. The patient has 
been drinking approximately 5 drinks per day and has had 
multiple recent falls. Approximately 4 or 5 days ago the patient 
had a fall where he struck his forehead against the door. Per 
report, no loss of conciousness, and only a small skin abrasion. 
One day ago, had three episodes of falls, that were associated 
with drinking alcohol. Last night he complained to his wife of 
significant chest pain and he was brought to an outside hospital 
for further evaluation. There he underwent a CT scan of his 
head, neck, chest. The scan demonstrated a small intracranial 
hemorrhage as well as rib fractures and he was transferred to 
___ for further evaluation. The patient denies any fever, 
chills, visual changes, nausea, vomiting. The patient takes an 
81 mg aspirin daily but is otherwise not anticoagulated.
 
Past Medical History:
PMHx:
- Aortic Stenosis
- Myocardial infarction
- Coronary Disease
- Dyslipidemia
- Hypertension
- History of postop PAF
- Hypothyroid related to amiodarone

Past Surgical History
- Emergent coronary bypass grafting x5, on intra-aortic balloon
pump with endoscopic left greater saphenous vein harvesting and
endoscopic right greater saphenous vein harvesting on ___
- Re-Exploration for bleeding following CABG

 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Admission Physical Exam:
Vitals: 98.6 116 170/99 24 95% RA 
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist, small hematoma
at right forehead, no cervical spine tenderness
CV: RRR 
PULM: Clear to auscultation b/l
Chest: Right sided rib tenderness, no T spine tenderness
ABD: Soft, mildly distended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, No L spine
tenderness 
Pelvis:stable, no tenderness  
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.6, 83, 157/82, 18, 100% RA
Gen: Alert, sitting up in bed with wife at bedside.
HEENT: no deformity. PERRL. EOMI. mucus membranes pink/moist. 
Neck supple, trachea midline.
CV: RRR
Pulm: Clear to auscultation bilaterally
Abd: Soft, non-tender, obese. Active bowel sounds x 4 quadrants.
Ext: Warm and dry. 2+ ___ pulses. No edema.
Neuro: A&Ox3. Follows commands, moves all extremities equal and 
strong. Speech is clear and fluent. Face symmetric. No drift. 

 
Pertinent Results:
___ 04:20AM BLOOD WBC-8.3 RBC-3.78* Hgb-12.4* Hct-37.5* 
MCV-99* MCH-32.8* MCHC-33.1 RDW-12.9 RDWSD-46.1 Plt ___
___ 08:40AM BLOOD WBC-11.4* RBC-4.23*# Hgb-14.1# Hct-40.9# 
MCV-97 MCH-33.3* MCHC-34.5 RDW-12.8 RDWSD-45.1 Plt ___
___ 04:20AM BLOOD Glucose-89 UreaN-23* Creat-0.7 Na-139 
K-3.5 Cl-102 HCO3-28 AnGap-13
___ 08:40AM BLOOD Glucose-86 UreaN-20 Creat-0.9 Na-141 
K-3.9 Cl-99 HCO3-26 AnGap-20
___ 08:40AM BLOOD ___ PTT-27.3 ___
___ 03:00PM BLOOD Albumin-3.7

___ CT Head:
1. Unchanged small parenchymal hematoma in the subcortical 
medial right 
frontal lobe with stable mild surrounding edema but no 
significant mass 
effect, compatible with hemorrhagic contusion or amyloid 
angiopathy.  Please correlate with any clinical history of 
trauma. 
2. Small amount of fluid in the right sphenoid sinus may 
represent acute 
sinusitis in an appropriate clinical setting.  Please correlate 
with symptoms. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M who was admitted to the Acute Care 
Trauma Surgery service on ___ with a 1 week history of 
multiple falls in the setting of alcohol use. He had a CT scan 
of his head at an outside hospital that showed a small 
intraparenchymal hemorrhage and he was transferred to ___ for 
further managment. He had CT scan of the neck, chest, abdomen 
and pelvis that revealed a left 9th rib fracture and left rib 
fractures ___. Neurosurgery was consulted for the head bleed and 
recommended seizure prophylaxis with keppra and holding 
anticoagulation. He was admitted to the floor for frequent 
neurologic exams and further management.

The remainder of his hospital course can be summarized as 
follows:

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oral dilaudid. 
His neurologic exam remained intact and the repeat head CT 
remained stable. He was seen and evaluated by occupational 
therapy for cognitive evaluation. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 

GI/GU/FEN: The patient was given a regular diet which was well 
tolerated. Patient's intake and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Follow up appointments were 
scheduled. 

 
Medications on Admission:
Folic acid 1 mg daily  
Lipitor 20 mg daily  
lisinopril 2.5 mg daily  
lorazepam 1 mg twice a day as needed  
metoprolol 50 mg BID  
aspirin 81 mg daily  
citalopram 20 mg daily  
Disulfiram 250 mg PO DAILY
 
Discharge Medications:
1. Disulfiram 250 mg PO DAILY 
do not admit if alcohol intoxication 
2. Citalopram 20 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. LORazepam 1 mg PO BID:PRN anxiety 
5. FoLIC Acid 1 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Aspirin 81 mg PO DAILY 
**You may resume taking this medication on ___ 
8. Lisinopril 2.5 mg PO DAILY 
9. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0
10. Polyethylene Glycol 17 g PO DAILY 
11. LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0
12. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
Take lowest effective dose. 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 3 hours Disp 
#*70 Tablet Refills:*0
13. Docusate Sodium 100 mg PO BID 
hold for diarrhea 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*0
14. Acetaminophen 650 mg PO TID 
Do not exceed 3 grams in 24 hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intraparenchymal hemorrhage in the right frontal lobe 
Left 9th rib fracture
Right ___ subacute rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall that occurred 5 days prior. You had a CT 
scan of your head and were found to have a small right 
intraparenchymal hemorrhage. Your neurological exam was closely 
monitored and remained stable. You had a repeat CT scan of your 
head that showed your bleed was stable. The neurosurgery team 
was consulted and recommend that you take Keppra to prevent 
seizures for a total of 7 days. You can resume taking your 
aspirin on ___. Please follow up in the ___ clinic 
at your scheduled appointment listed below.

You were also found to have rib fractures. These will heal over 
time. 

You were seen by the occupational therapy team for a cognitive 
evaluation because you have a bleed in your head. You can follow 
up in the cognitive neurology/ concussion clinic as needed.  

Please note the following discharge instructions:
* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___